US05362747
(2 R )-2-(N-(1,1-dimethylethoxycarbonyl)amino)-5-(5-methyl-2-nitrophenylamino)pentanoic acid
To 696 mg (3.0 mmol) of Boc-D-Ornithine (as a 1M solution in ethanol) was added 551.5 mg (3.30 mmol) of 2-fluoro-3-nitrotoluene and 3 ml (3 mmol) of 1N sodium hydroxide. The reaction was heated to reflux for 24 hours. The reaction was concentrated/n vacuo. The product was purified by flash chromatography with acetonitrile/acetic acid/water 6/1/1. The product (620 mg, 61% yield) was obtained was a yellow oil. mp>258° C. (dec.). MS (FAB) M/Z: 268 (M+H). 1H NMR (300 MHz, CDCl3) δ: 1.7-2.0 (m, 4H), 2.1 (s, 9H), 2.45 (s, 3H), 3.40 (t, 2H), 4.00 (t, 1H), 6.60 (td, 1H), 7.10 (dd, 1H), 8.00 (dd, 1H).

reactant | Boc-D-Ornithine | 3.0 mmol, 696 mg | C(=O)(OC(C)(C)C)N[C@H](CCCN)C(=O)O | C10H20N2O4
reactant | 2-fluoro-3-nitrotoluene | 3.30 mmol, 551.5 mg | FC1=C(C=CC=C1[N+](=O)[O-])C | C7H6FNO2
reactant | sodium hydroxide | 3 mmol, 1N, 3 ml | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | (2 R )-2-(N-(1,1-dimethylethoxycarbonyl)amino)-5-(5-methyl-2-nitrophenylamino)pentanoic acid | 620 mg, 61% yield | CC(C)(OC(=O)N[C@@H](C(=O)O)CCCNC1=C(C=CC(=C1)C)[N+](=O)[O-])C | C17H25N3O6
